Name:  ___               Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
SI/ Cellulitis
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Ms. ___ is a ___ y/o F with ___ paranoid schizophrenia with 
delusions of persecution who presents to the ED with reported 
SI. Per a note from ___, patient has a recent psych 
admission at ___, and since discharge has been living at the bus 
stop outside ___, grossly psychotic, because she was had 
paranoid delusions that her neighbors were going to kill her. 
She was been in the ED since ___.  

When questioned, patient denies feeling depressed and does not 
endorse SI/HI. She reports that she presents to the ED for ankle 
swelling and pain. She reports the swelling began after "eating 
a bagel with cream cheese that had drugs in it". She also has 
been walking a lot recently. She reports that she takes Haldol 
and Cogentin for her depression but hasn't been taking them for 
the past week. Denies hallucinations.  
 
On the floor, the patient denied being in any pain. She said she 
came into the hospital because of the problems with her R foot 
and said that otherwise she doesn't feel like she has any 
issues. She doesn't know why psychiatry has been seeing her in 
the hospital and said "you can't lock me in a psych ward just 
for being homeless." She was otherwise without acute complaints.

 
Past Medical History:
Schizophrenia, paranoid
Depression/Anxiety with possible bipolar disorder
History of suicidal ideation
History of left breast invasive ductal carcinoma ___ s/p 
curative mastectomy

Oncologic history (adapted from ___ records)
-___ palpable mass L breast
-___ MMG/US L breast- multiple lesions L breast
-___ US core biopsy L breast-Invasive papillary carcinoma 
ER+PR+Her2 negative
-___ CT CAP negative for malignancy
-___ MRM left breast- multifocal invasive papillary 
carcinoma, conventional IDC, DCIS, largest area of invasive 
carcinoma 5.3 cm, no LVI, grade 2, ___ LN, ER> 90% PR >90% her2 
2+ IHC  1.9FISH/2.0 copy number- nonamplified
-Mastectomy at some point between ___ and ___
 
Social History:
___
Family History:
No family history of mental illness
 
Physical Exam:
ADMISSION PHYSICAL:
Vital Signs: 97.6 144/85 69 18 98 Ra   
General: Malodorous. Odd affect. Intermittent bursts of laughter 
during interview. 
HEENT: NCAT, MMM, poor dentition
CV: RRR, no m/r/g  
Lungs: Clear to auscultation bilaterally, no wheezes, rales, 
rhonchi  
Abdomen: Soft, NT/ND, BS+ 
GU: No foley  
Ext: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema, dorsum of R foot with warm, erythematous rash, no 
drainage or discharge  
Neuro: Face grossly symmetric. Moving all limbs with purpose 
against gravity. Not dysarthric.  

DISCHARGE PHYSICAL:
Vital Signs: 97.6 102/68 69 18 94 Ra     
General: Slightly anxious, Malodorous. Odd affect.
HEENT: NCAT, MMM, poor dentition
CV: RRR, no m/r/g  
Lungs: Clear to auscultation bilaterally, no wheezes, rales,
rhonchi  
Abdomen: Soft, NT/ND, BS+ 
GU: No foley  
Ext: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or
edema, no rash/edema on R foot
Neuro: Face grossly symmetric. Moving all limbs with purpose
against gravity. Not dysarthric.  
 
Pertinent Results:
ADMISSION LABS:
___ 05:00PM BLOOD WBC-14.9* RBC-4.43 Hgb-13.1 Hct-41.6 
MCV-94 MCH-29.6 MCHC-31.5* RDW-14.3 RDWSD-49.4* Plt ___
___ 05:00PM BLOOD Glucose-112* UreaN-16 Creat-0.9 Na-136 
K-5.5* Cl-101 HCO3-22 AnGap-13
___ 05:00PM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Bnzodzp-NEG Barbitr-NEG Tricycl-NEG

OTHER IMPORTANT LABS:
___ 01:22PM URINE Color-Yellow Appear-Hazy* Sp ___
___ 01:22PM URINE Blood-NEG Nitrite-NEG Protein-TR* 
Glucose-NEG Ketone-10* Bilirub-NEG Urobiln-NEG pH-6.0 Leuks-LG
___ 01:22PM URINE bnzodzp-NEG barbitr-NEG opiates-NEG 
cocaine-NEG amphetm-NEG oxycodn-NEG mthdone-NEG

MICROBIOLOGY:
None

IMAGING AND OTHER STUDIES:
___ Hip X-ray:
Mild degenerative change of the left hip without fracture.  
Single frontal 
view of the right hip shows mild degenerative change as well.  
Mild 
degenerative changes of the partially visualized lower lumbar 
spine. 

DISCHARGE LABS:
___ 06:50AM BLOOD WBC-8.9 RBC-4.31 Hgb-13.3 Hct-39.8 MCV-92 
MCH-30.9 MCHC-33.4 RDW-13.5 RDWSD-46.1 Plt ___
___ 06:50AM BLOOD Plt ___
___ 06:50AM BLOOD Glucose-129* UreaN-13 Creat-0.8 Na-141 
K-4.8 Cl-102 HCO3-25 AnGap-14
___ 06:50AM BLOOD Calcium-9.5 Phos-3.5 Mg-2.0
___ 06:50AM BLOOD %HbA1c-5.6 eAG-114

 
Brief Hospital Course:
Ms. ___ is a ___ y/o woman with PMH paranoid schizophrenia 
with delusions of persecution who presents to the ED with 
reported SI on ___ and LLE cellulitis, uncomplicated, 
initiated on Cephalexin 500 mg PO Q6H x 5 day course (___), 
admitted for placement to inpatient psychiatric facility.
 
TRANSITIONAL ISSUES:
-patient will need to continue 5 day course of Cephalexin 500mg 
PO q6H ___ day 1 - ___ day 5)
-Patient's haloperidol was uptitrated from 10mg to 15mg PO BID 
during this hospitalization
-Patient should follow up with her oncologist (Dr. ___ 
___ at ___ regarding further care of her history of breast 
cancer after discharge from her inpatient psychiatric facility
-presumed to be full code during hospitalization
-contact: None, remains to be an issue to be addressed discharge 
as she refused to name ___ contact person while inpatient

#LLE Cellulitis: The patient presented with an erythematous rash 
on dorsum of R foot with labs notable for leukocytosis. No other 
systemic signs of complicated or disseminated infection. She was 
started on Keflex in the ED given lack of purulent appearance 
and improved significantly both in terms of pain and appearance 
on exam. She was started on 5 day course of keflex (___) 
with plans to continue during inpatient psychiatric stay.

#Paranoid Schizophrenia 
#Depression c/b Suicidal Ideations: The patient presented with 
evidence of delusions of persecution and suicidal ideation. She 
was evaluated by psychiatry in the ___ ED, who felt that the 
patient continued to have internal preoccupation and should be 
hospitalized for decompensated psychosis. She subsequently did 
not have any SI/HI, but was placed under ___ due to 
immediate danger to self/others. Further collateral was gathered 
supporting this need for inpatient psychiatric care during 
hospitalization (for medical clearance prior to placement to 
psychiatric facility). She was continued on home Haldol 
(increased from 10mg at home to 15mg BID in the hospital) and 
Cogentin 1mg BID. Trazodone was discontinued as patient had not 
been using it, which was reasonable per psychiatry. She was 
cleared for discharge from medical standpoint and transferred to 
inpatient psychiatric facility.

#Tobacco Abuse: Given the patient's history of tobacco abuse, 
she was treated with a nicotine patch this admission.

#History of breast cancer: per review of OSH records from ___, 
the patient has a history of T3N0M0 invasive ductal carcinoma of 
the left breast, last seen in clinic ___. There are no 
further notes in the ___ system from oncology, but she was 
supposed to have been taking anastrazole 1mg PO daily for 
ongoing hormonal treatment with regular surveillance of the 
contralateral breast. On admission, the patient had not been 
taking her anastrazole and given her difficult social situation, 
decision was made not to pursue initiation of such therapy while 
inpatient and amidst acute psychotic decompensation. She should 
be arrange for follow-up with her oncologist at time of 
discharge from inpatient psychiatric facility for further 
oncologic care.

> 30 minutes was spent in discharge planning and coordination
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Haloperidol 10 mg PO BID 
2. Benztropine Mesylate 2 mg PO DAILY 

 
Discharge Medications:
1.  Cephalexin 500 mg PO Q6H Duration: 5 Days 
___  
2.  Nicotine Patch 14 mg TD DAILY  
3.  Haloperidol 15 mg PO BID  
4.  Benztropine Mesylate 2 mg PO DAILY  

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
PRIMARY DIAGNOSIS/ES:
-Left lower extremity cellulitis
-Acute exacerbation of paranoid schizophrenia

SECONARY DIAGNOSIS/ES:
-Depression/Anxiety
-History of breast cancer

 
Discharge Condition:
Mental Status: Clear and coherent, but without capacity due to 
psychiatric decompensation
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

You came to the hospital because you were having pain in your 
foot. You were diagnosed with an infection in that foot and 
treated with an antibiotic. With this antibiotic, your foot 
swelling and pain improved.

While in the hospital, you were also seen by the psychiatrists. 
After seeing you and talking to some of your other caretakers, 
you were not felt safe to be discharged home. They thought that 
you could benefit from more intensive psychiatric care for a 
short while. Based on this recommendation, you were discharged 
to an inpatient psychiatric facility to continuing improving 
your health.

Thank you for allowing us to be a part of your care,

Your ___ Team
 
Followup Instructions:
___